US05112988
7,7-Diphenyl-2-vinyloxycarbonyl-2,3,3a,4,7,7a-hexahydro-1H-isoindol-4-one (2.6 g) is stirred in a 3N solution (30 cc) of hydrogen chloride in dioxane at room temperature for 30 minutes; the mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up with ethanol (50 cc) and heated to reflux for 30 minutes; the mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized in ethyl ether (20 cc); the crystals obtained are drained and dried. 7,7-Diphenyl-2,3,3a,4,7,7a-hexahydro-1H-isoindol-4-one hydrochloride (2 g), m.p. above 260° C., is obtained.

reactant | 7,7-Diphenyl-2-vinyloxycarbonyl-2,3,3a,4,7,7a-hexahydro-1H-isoindol-4-one | 2.6 g | C1(=CC=CC=C1)C1(C=CC(C2CN(CC12)C(=O)OC=C)=O)C1=CC=CC=C1 | C23H21NO3
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 7,7-Diphenyl-2,3,3a,4,7,7a-hexahydro-1H-isoindol-4-one hydrochloride | 2 g | Cl.C1(=CC=CC=C1)C1(C=CC(C2CNCC12)=O)C1=CC=CC=C1 | InChI=1S/C20H19NO.ClH/c22-19-11-12-20(15-7-3-1-4-8-15,16-9-5-2-6-10-16)18-14-21-13-17(18)19;/h1-12,17-18,21H,13-14H2;1H
